US06013658
N-((1R)-1-Formyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester (6.0 g, 20.0 mmol) was dissolved in ether (150 mL). The solution was cooled to -78° C. and allylmagnesium bromide (22 mL of a 1.0 M solution in ether, 22 mmol) was added dropwise. After addition, the solution was warmed to room temp. It was given onto 10% ammonium chloride solution in water (200 mL). The phases were separated. The aqueous phase was extracted with ethyl acetate (3×50 mL). The organic layers were combined and washed with satd. sodium hydrogencarbonate solution (100 mL) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (260 g) with ethyl acetate/heptane 1:1 to give 4.00 g of N-((1R)-1-benzyl-2-hydroxypent-4-enyl)-N-methylcarbamic acid tert-butylester.

reactant | N-((1R)-1-Formyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 20.0 mmol, 6.0 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C=O)=O | C15H21NO3
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | water | 200 mL | O | H2O
product | N-((1R)-1-benzyl-2-hydroxypent-4-enyl)-N-methylcarbamic acid tert-butylester | 4.00 g | C(C)(C)(C)OC(N(C)[C@@H](C(CC=C)O)CC1=CC=CC=C1)=O | C18H27NO3
